US07842685B2
A suspension of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(4-(benzyloxy)-phenyl)cyclopropyl)thiazolo[5,4-b]pyridine (0.305 g, 0.566 mmol) in 5 mL THF and 5 mL 5N aq. HCl was heated in a sealed vial to 65° C. for 1 h. The reaction mixture was cooled, poured onto ice, quenched with 10 N NaOH, sonicated in 5 mL MTBE, filtered, and rinsed with 1 mL MTBE. The solid was collected to give 4-(5-(1-(4-(benzyloxy)-phenyl)cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde as an orange solid. MS (ESI) m/z: calculated: 480.1; Observed: 481.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(4-(benzyloxy)-phenyl)cyclopropyl)thiazolo[5,4-b]pyridine | 0.566 mmol, 0.305 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)F | C32H27FN2O3S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | HCl | 5N, 5 mL | Cl | ClH
product | 4-(5-(1-(4-(benzyloxy)-phenyl)cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F | C29H21FN2O2S
